US07816522B2
(126c) 2-(4-{(4-carbamimidoyl-phenylamino)-[1-(3-methoxy-pyridin-2-yl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]methyl}-2-ethoxy-phenoxy)-N-methyl-acetamide acetate
The same procedure was carried out as in Examples (21i)-(21j), except that {2-(3-ethoxy-4-methylcarbamoylmethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester and (3-methoxy-pyridin-2-yl)hydrazine were used instead of respectively the {2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in Example (21i) and 2-hydrazinopyrimidine in Example (21i), to give the title compound.

reactant | {2-(3-ethoxy-4-methylcarbamoylmethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OCC(NC)=O)OCC)SC)=O | C25H27N5O6S
reactant | (3-methoxy-pyridin-2-yl)hydrazine | COC=1C(=NC=CC1)NN | C6H9N3O
reactant | {2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)-phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)SC)=O | C23H22N4O6S
reactant | 2-hydrazinopyrimidine | N(N)C1=NC=CC=N1 | C4H6N4
product | 2-(4-{(4-carbamimidoyl-phenylamino)-[1-(3-methoxy-pyridin-2-yl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]methyl}-2-ethoxy-phenoxy)-N-methyl-acetamide acetate | C(C)(=O)O.C(N)(=N)C1=CC=C(C=C1)NC(C1=CC(=C(OCC(=O)NC)C=C1)OCC)C1=NN(C(N1)=O)C1=NC=CC=C1OC | InChI=1S/C27H30N8O5.C2H4O2/c1-4-39-21-14-17(9-12-19(21)40-15-22(36)30-2)23(32-18-10-7-16(8-11-18)24(28)29)25-33-27(37)35(34-25)26-20(38-3)6-5-13-31-26;1-2(3)4/h5-14,23,32H,4,15H2,1-3H3,(H3,28,29)(H,30,36)(H,33,34,37);1H3,(H,3,4)
